US07220856B2
Preparation of 4-(7-chloro-4-quinolinyl)-N-(4-hydroxycyclohexyl)-1-piperazinecarboxamide:
As described for example 78, 4-aminocyclohexanol (84 mg, 0.73 mmol), 4-nitrophenyl chloroformate (146 mg, 0.73 mmol), diisopropyl(ethyl)amine (320 mg, 2.4 mmol), and 7-chloro-4-(piperazin-1-yl)quinoline (150 mg, 0.81 mmol) are reacted affording 80 mg of the product after flash chromatography with CH2Cl2-MeOH. 1H NMR (DSMO-d6) 61.17 (m,-4H), 1.74 (m, 4H), 3.38 (m, 2H), 3.56 (br. s, 4H), 3.82 (br., s, 4H), 7.16 (d, 1H), 7.64 (dd, 1H), 1.97 (d, 1H), 8.2 (d, 1H), 8.62 (d, 1H).

reactant | 4-aminocyclohexanol | 0.73 mmol, 84 mg | NC1CCC(CC1)O | C6H13NO
reactant | 4-nitrophenyl chloroformate | 0.73 mmol, 146 mg | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | diisopropyl(ethyl)amine | 2.4 mmol, 320 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 7-chloro-4-(piperazin-1-yl)quinoline | 0.81 mmol, 150 mg | ClC1=CC=C2C(=CC=NC2=C1)N1CCNCC1 | C13H14ClN3
solvent | CH2Cl2 MeOH | C(Cl)Cl.CO
product | 4-(7-chloro-4-quinolinyl)-N-(4-hydroxycyclohexyl)-1-piperazinecarboxamide | 80 mg | ClC1=CC=C2C(=CC=NC2=C1)N1CCN(CC1)C(=O)NC1CCC(CC1)O | C20H25ClN4O2
